US04568491
(3.1.) (20S)-1α,3β-Diacetoxy-21-iodo-20-methyl-pregn-5-ene.
Second process. A solution of 23.4 g of (20S)-1α,3β-diacetoxy-20-methyl-21-p-toluenesulphonyloxy-pregn-5-ene in 260 ml of toluene is treated with 1.04 g of hexadecyl-tri-n-butyl-phosphonium bromide and a solution of 132 g of sodium iodide in 260 ml of water and the mixture is heated under reflux for 5 hours. After cooling, the organic phase is separated, washed with saturated sodium chloride solution, dried over sodium sulphate and evaporated at 30°/11 Torr. Chromatography of the residue on 270 g of silica gel with hexane/ether (19:1 and 9:1) gives 21.1 g of product of melting point 135°-136°. After recrystallization from concentrated pentane solution, there are obtained 16.0 g of product of melting point 136°; [α]D20 =-11.0° (c=1.0 in CHCl3).

reactant | (20S)-1α,3β-diacetoxy-20-methyl-21-p-toluenesulphonyloxy-pregn-5-ene | 23.4 g | C(C)(=O)O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](COS(=O)(=O)C5=CC=C(C=C5)C)C)[C@]4(CC[C@@H]3[C@@]12C)C)OC(C)=O | C33H46O7S
reactant | sodium iodide | 132 g | [I-].[Na+]
solvent | toluene | 260 ml | C1(=CC=CC=C1)C | C7H8
catalyst | hexadecyl-tri-n-butyl-phosphonium bromide | 1.04 g | [Br-].C(CCCCCCCCCCCCCCC)[P+](CCCC)(CCCC)CCCC
solvent | water | 260 ml | O | H2O
product | (20S)-1α,3β-Diacetoxy-21-iodo-20-methyl-pregn-5-ene | 21.1 g | C(C)(=O)O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CI)C)[C@]4(CC[C@@H]3[C@@]12C)C)OC(C)=O | C26H39IO4
